US06653321B1
Preparation of 3-Amino-5-(methoxycarbonyl)benzoic Acid (Compound 68)
To 2.75 g of mono-methyl 5-nitroisophthalate (5-(methoxycarbonyl)-3-nitrobenzoic acid), compound 67, dissolved in 30 mL of THF was added 100 mg of 10% palladium on carbon. The reaction was placed in a Parr hydrogenator under a H2 atmosphere of 45 psi and shaken for 16 hr. The solid palladium catalyst was removed by vacuum filtration through celite and 5 mL of 1N HCl in diethyl ether was added to the filtrate. After sitting for 12 hr, the solid was collected by vacuum filtration and was washed with ethyl acetate. This provided 1.82 g of the desired product. The product was identified by 1H NMR and mass spectroscopy and purity was assessed by RP-HPLC.

reactant | mono-methyl 5-nitroisophthalate | 2.75 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C1)C(=O)[O-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-Amino-5-(methoxycarbonyl)benzoic Acid | NC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H9NO4
